US04399287
4-(Hydroxymethylphosphinyl)-2-oxobutanoic acid
A suspension of sodium ethoxide in toluene (50 ml) was prepared as in (a) above and to this was added diethyl oxalate (10.9 g) and a solution of ethyl 3-(hydroxymethylphosphinyl)propanoate (13.5 g) in toluene (75 ml). The mixture was stirred for 16 hours then extracted with water (4×60 ml). The extract was acidified with conc. hydrochloric acid (200 ml) and the acid solution refluxed for 2.5 hours. The crude product (8.8 g) was isolated as in part (a) and triturated with acetone to give the desired product (5.2 g).

reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | diethyl oxalate | 10.9 g | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | ethyl 3-(hydroxymethylphosphinyl)propanoate | 13.5 g | OCP(=O)CCC(=O)OCC | C6H13O4P
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 75 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(Hydroxymethylphosphinyl)-2-oxobutanoic acid | 5.2 g | OCP(=O)CCC(C(=O)O)=O | C5H9O5P
